US07045551B2
Step C: (R)-[2-Hydroxy-1-(7-methoxy-naphthalen-2-yl)-ethyl]-carbamic acid tert-butyl ester
Sodium hydroxide (1.8 g) was dissolved in water (10 mL) and 5 mL of this solution was used to dissolve potassium osmium (VI) oxide dihydrate (217 mg) to get a purple suspension. The rest of the sodium hydroxide solution was treated with t-butyl carbamate (5.333 g) in n-propanol (60 mL), followed by addition of t-butyl hypochlorite (5.5 mL). This solution was stirred for 5 min, then hydroquinidine 1,4-phthalazinediyl diether (733 mg) in n-propanol (60 mL) was added, followed by a solution of 2-methoxy-7-vinyl-naphthalene (2 g) in n-propanol (103 mL) and a solution of potassium osmium (VI) oxide dihydrate previously made. The reaction mixture was stirred at room temperature for 0.5 h. The reaction mixture was quenched with saturated Na2SO3 solution. After concentration, the residue was extracted with ethyl acetate. The combined organic layers were dried over magnesium sulfate and concentrated under vacuum. The crude product was purified by flash chromatography eluting with 33% ethyl acetate in hexanes to give the title compound as a solid (1.585 g).

reactant | Sodium hydroxide | 1.8 g | [OH-].[Na+]
reactant | t-butyl carbamate | 5.333 g | C(N)(OC(C)(C)C)=O | C5H11NO2
reactant | t-butyl hypochlorite | 5.5 mL | ClOC(C)(C)C | C4H9ClO
reactant | hydroquinidine 1,4-phthalazinediyl diether | 733 mg | CC[C@H]1CN2CC[C@H]1C[C@@H]2[C@H](C3=C4C=C(C=CC4=NC=C3)OC)OC5=NN=C(C6=CC=CC=C65)O[C@H]([C@H]7C[C@@H]8CCN7C[C@@H]8CC)C9=C1C=C(C=CC1=NC=C9)OC | C48H54N6O4
reactant | 2-methoxy-7-vinyl-naphthalene | 2 g | COC1=CC2=CC(=CC=C2C=C1)C=C | C13H12O
solvent | water | 10 mL | O | H2O
solvent | n-propanol | 60 mL | C(CC)O | C3H8O
solvent | n-propanol | 60 mL | C(CC)O | C3H8O
solvent | n-propanol | 103 mL | C(CC)O | C3H8O
catalyst | potassium osmium (VI) oxide dihydrate | 217 mg | O.O.[Os](=O)(=O)=O.[K]
product | (R)-[2-Hydroxy-1-(7-methoxy-naphthalen-2-yl)-ethyl]-carbamic acid tert-butyl ester | 1.585 g | C(C)(C)(C)OC(N[C@@H](CO)C1=CC2=CC(=CC=C2C=C1)OC)=O | C18H23NO4
